US06380288B1
Synthesis of 1-benzamidoguanidine
A four neck flask (2 liters) equipped with a thermometer and a stirrer was charged with 88.5 g (1.0 mol) of aminoguanidine hydrochloride, 205 g (2.5 mol) of sodium acetate and 1 liter of acetic acid and cooled down to 10° C. Dropwise added thereto was 154.5 g (1.1 mol) of benzoyl chloride while stirring, and stirring was continued at room temperature (20° C.) for 12 hours. After filtering off crystal, the mother liquid was concentrated to obtain an oily substance. This was dissolved in 1 liter of deionized water, and a 48% sodium hydroxide aqueous solution was dropwise added until the pH became 13 or higher. Crystal deposited was filtered off and washed with 200 ml of deionized water, and then the crystal was dried under reduced pressure to obtain slightly brown crystal.

reactant | aminoguanidine hydrochloride | 1.0 mol, 88.5 g | C(=N)(N)NN.Cl
reactant | sodium acetate | 2.5 mol, 205 g | C(C)(=O)[O-].[Na+]
reactant | benzoyl chloride | 1.1 mol, 154.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 liter | O | H2O
solvent | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
product | 1-benzamidoguanidine | C(C1=CC=CC=C1)(=O)NNC(=N)N | C8H10N4O
